US04385176
A solution of N-(1-cyclopropylethoxycarbonyl)-phenylglycine (1.63 g), triethylamine (0.60 g) and dimethylbenzylamine (2 drops) in dried dichloromethane (10 ml) was dropwise added at -10° C. to a solution of ethyl chloroformate (0.67 g) in dried dichloromethane (15 ml), and the mixture was stirred for 1 hour. The mixture was cooled at -10° to 15° C. and to the mixture was dropwise added over 10 minutes a solution of 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (2.2 g) and triethylamine (0.55 g) in dried dichloromethane (20 ml), after which the mixture was stirred for 2.5 hours at the same temperature. After the reaction, the reaction mixture was in turn washed with water, 2% hydrochloric acid, a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution and then dried over magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was pulverized by adding isopropyl ether, after which the powder was collected by filtration and dried to give 2,2,2-trichloroethyl 2-methyl-7-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]-amino-3-cephem-4-carboxylate (3.0 g), mp 165° to 167.5° C.

reactant | N-(1-cyclopropylethoxycarbonyl)-phenylglycine | 1.63 g | C1(CC1)C(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C14H17NO4
reactant | triethylamine | 0.60 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.67 g | ClC(=O)OCC | C3H5ClO2
reactant | 2,2,2-trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 2.2 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
reactant | triethylamine | 0.55 g | C(C)N(CC)CC | C6H15N
catalyst | dimethylbenzylamine | 2 drops | CN(CC1=CC=CC=C1)C | C9H13N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2,2,2-trichloroethyl 2-methyl-7-[N-(1-cyclopropylethoxy)carbonylphenylglycyl]-amino-3-cephem-4-carboxylate | 3.0 g | CC1(S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2C(CN(C(=O)OC(C)C2CC2)C2=CC=CC=C2)=O)=O)N | C24H26Cl3N3O6S
